US08703936B2
3-methoxy-5,10-dihydroindeno[1,2-b]indole (37a)
To a solution of phenyl hydrazine (1.21 mL, 1.33 g, 12.3 mmol) and 6-methoxy-1-indanone (2.01 g, 12.4 mmol) in ethanol (20 mL) was added glacial acetic acid (4 drops). The solution was stirred at reflux (85° C.) for 15 minutes and cooled to room temperature. Upon cooling, pale yellow crystals precipitated out of solution. Crystals were collected via vacuum filtration and dissolved in isopropanol (41 mL). Sulfuric acid (36 N, 1.39 mL) was added via syringe and the resulting solution was stirred at reflux (90° C.) for 18 hours—some precipitate formed over the course of the reaction. Upon cooling to room temperature, the solution was basified to pH 10 with aqueous sodium hydroxide (2% by mass) resulting in the formation of additional precipitate. The solid was collected by vacuum filtration to yield a brown solid which was subsequently dissolved in ethyl acetate (10 mL), diluted with H2O (10 mL), and extracted 1×15 mL dichloromethane to remove excess water. The organic layers were combined, dried over anhydrous magnesium sulfate and concentrated to yield a brown solid in 61% crude yield (1.76 g, 7.50 mmol). Crude product was brought on to the next step without further purification. For purposes of characterization, the product was purified by flash column chromatography (20:1 hexanes—ethyl acetate). 1H NMR (600 MHz, CDCl3): δ 8.28 (s, 1H), 7.64-7.65 (d, 1H, J=7.2 Hz), 7.42-7.44 (m, 2H), 7.16-7.21 (qd, 2H, J=7.2, 1.2 Hz), 7.03-7.04 (d, 1H, J=2.4 Hz), 6.77-6.78 (dd, 1H, J=7.8, 2.4 Hz), 3.89 (s, 3H), 3.68 (s, 2H); 13C NMR (150 MHz, CDCl3): δ 159.0, 143.1, 140.6, 139.8, 136.1, 125.7, 124.8, 123.2, 121.8, 120.2, 119.0, 112.0, 109.9, 103.8, 55.6, 29.5. FTIR: cm−1 3390, 2934, 1609, 1577, 1528, 1467, 1274, 1251, 1037, 837, 745.: Calcd. for C16H14ON+ [M+H]+: 236.1070. found 263.1071.

reactant | phenyl hydrazine | 12.3 mmol, 1.21 mL, 1.33 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | 6-methoxy-1-indanone | 12.4 mmol, 2.01 g | COC1=CC=C2CCC(C2=C1)=O | C10H10O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | acetic acid | 4 drops | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | H2O | 10 mL | O | H2O
product | 3-methoxy-5,10-dihydroindeno[1,2-b]indole | COC1=CC=C2CC3=C(NC=4C=CC=CC34)C2=C1 | C16H13NO
